US08633173B2
3-[2-(2-Methoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl]-N-methyl-benzamide was prepared from (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(2-methoxy-phenyl)-amine (50.0 mg, 0.157 mmol) and 3-methylaminocarbonylbenzeneboronic acid (31.0 mg, 0.173 mmol) with Pd(dppf)Cl2 (0.012 g) as the catalyst in a manner analogous to Step 2c and was isolated as a yellow solid (0.048 g, 82%). MP=199-202° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.48-8.44 (m, 2H), 8.40 (dd, J=7.9, 1.3 Hz, 1H), 8.15 (d, J=7.8 Hz, 1H), 7.85 (d, J=7.8 Hz, 1H), 7.65-7.57 (m, 3H), 7.07-6.99 (m, 4H), 6.30 (br s, 1H), 3.92 (s, 3H), 3.07 (d, J=4.9 Hz, 3H). MS=374 (MH)+.

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(2-methoxy-phenyl)-amine | 0.157 mmol, 50.0 mg | BrC=1C=2N(C=CC1)N=C(N2)NC2=C(C=CC=C2)OC | C13H11BrN4O
reactant | 3-methylaminocarbonylbenzeneboronic acid | 0.173 mmol, 31.0 mg | CNC(=O)C=1C=C(C=CC1)B(O)O | C8H10BNO3
catalyst | Pd(dppf)Cl2 | 0.012 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[2-(2-Methoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-yl]-N-methyl-benzamide | COC1=C(C=CC=C1)NC1=NN2C(C(=CC=C2)C=2C=C(C(=O)NC)C=CC2)=N1 | C21H19N5O2
